US04085111
A mixture of 5 g of 10-methyl-5-oxo-5H,10H-benzo[b][1,8]naphthyridine-7-carbonitrile, 50 ml of dimethylformamide, 1.45 g of ammonium chloride and 1.8 g of sodium azide is heated with stirring at 110° C to 120° C for 20 hours. After cooling, crystals are filtered off and added to a dilute hydrochloric acid, and the mixture is stirred. The crystals are filtered off, washed with water and recrystallized from dimethylformamide to give 4.3 g of 10-methyl-7-(5-1H-tetrazolyl)-5-oxo-5H,10H-benzo[b][1,8]naphthyridine melting at 321° C with decomposition.

reactant | 10-methyl-5-oxo-5H,10H-benzo[b][1,8]naphthyridine-7-carbonitrile | 5 g | CN1C2=C(C(C=3C=CC=NC13)=O)C=C(C=C2)C#N | C14H9N3O
reactant | ammonium chloride | 1.45 g | [Cl-].[NH4+]
reactant | sodium azide | 1.8 g | [N-]=[N+]=[N-].[Na+]
solvent | dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
product | 10-methyl-7-(5-1H-tetrazolyl)-5-oxo-5H,10H-benzo[b][1,8]naphthyridine | 4.3 g | CN1C2=C(C(C=3C=CC=NC13)=O)C=C(C=C2)C2=NN=NN2 | C14H10N6O
